### PR TITLE
feat(ErdosProblems): 19

### LINKED ISSUE #2127: Erdős Problem 19: Chromatic number of edge-disjoint complete graphs; Erdős-Faber-Lovász Conjecture
### What is the conjecture

 If $G$ is an edge-disjoint union of $n$ copies of the complete graph $K_n$, then the chromatic number $\chi(G) = n$. Here, an edge-disjoint union means the $n$ copies of $K_n$ share no common edges, and $\chi(G)$ is the minimum number of colors needed to color the vertices of $G$ such that no two adjacent vertices have the same color.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://www.erdosproblems.com/19

### Prerequisites needed

**Formalizability Rating:** 1.5/5 (0 is best) (as of 2026-02-02)

Building blocks (1-3; from search results):
- `SimpleGraph` type and basic graph operations in Mathlib
- `CompleteGraph` or ability to construct complete graphs
- Fintype for finite structures

Missing pieces (exactly 2; unclear/absent from search results):
- Formal definition of chromatic number χ(G) and its properties
- Formalization of edge-disjoint union construction for graphs

Rating justification: The statement itself is straightforward once chromatic number and edge-disjoint union decompositions are available. However, the search found no existing Mathlib definitions for chromatic number or these specific graph operations, requiring moderate new infrastructure (definitions and basic lemmas) to state the conjecture formally.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by Karanjot786**
Closes #2127 

Formalizes Erdos Problem 19: https://www.erdosproblems.com/19

### CODE REVIEW

**Comment by Karanjot786** [comment]
Hi @mo271, Please review this PR

File: FormalConjectures/ErdosProblems/19.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+
+/--
+The asymptotic version: for all sufficiently large $n$, if $G$ is an edge-disjoint union of
+$n$ copies of $K_n$, then $\chi(G) = n$.
+
+This is the form proved by Kang, Kelly, Kühn, Methuku, and Osthus (2021).
+-/
+@[category research solved, AMS 5]
+theorem erdos_19.asymptotic :
+    ∃ N : ℕ, ∀ n ≥ N, ∀ (V : Type u) (G : SimpleGraph V),
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/19.lean]: use 
```suggestion
    ∀ᶠ n in Filter.atTop, ∀ (V : Type u) (G : SimpleGraph V),
```

And also let's a `research open` statement showing that it is still open if this is true with `∀ n`

File: FormalConjectures/ErdosProblems/19.lean [hunk 2]
```diff
@@ -0,0 +1,91 @@
...
+
+/--
+The lower bound: $\chi(G) \geq n$ for edge-disjoint union of $n$ copies of $K_n$.
+This follows from the fact that each $K_n$ requires $n$ colors.
+-/
+@[category graduate, AMS 5]
+theorem erdos_19.lower_bound (n : ℕ) (hn : 0 < n) :
+    ∀ (V : Type u) (G : SimpleGraph V), IsEdgeDisjointCompleteUnion G n →
+      n ≤ G.chromaticNumber := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/19.lean]:
```suggestion
  intro V G ⟨cliques, hcard, hclique, _, _⟩
  set i₀ : Fin n := ⟨0, hn⟩
  have hfin : (cliques i₀).Finite := Set.finite_of_ncard_ne_zero (by rw [hcard i₀]; omega)
  have hclique₀ : G.IsClique (↑hfin.toFinset) := by
    rw [Set.Finite.coe_toFinset]
    exact hclique i₀
  convert hclique₀.card_le_chromaticNumber using 1
  norm_cast
  exact (hcard i₀).symm.trans (Set.ncard_eq_toFinset_card _ hfin)
```

**Review by mo271 — COMMENTED** [review]
Thanks!
A few initial remarks...

File: FormalConjectures/ErdosProblems/19.lean [hunk 3]
```diff
@@ -0,0 +1,100 @@
...
+
+open SimpleGraph
+
+namespace Erdos19
+
+variable {V : Type*}
+
+/--
+A graph $G$ is an edge-disjoint union of $n$ copies of $K_n$ if there exists a family of $n$
+cliques, each of size $n$, such that any two cliques share at most one vertex.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/19.lean:35]: You are missing the fact that the graph is exactly the union of the cliques and not more

File: FormalConjectures/ErdosProblems/19.lean [hunk 4]
```diff
@@ -0,0 +1,100 @@
...
+      IsEdgeDisjointCompleteUnion G n → G.chromaticNumber = n := by
+  sorry
+
+/--
+The weaker statement: $\chi(G) \leq n$ for edge-disjoint union of $n$ copies of $K_n$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_19.upper_bound (n : ℕ) (hn : 0 < n) :
+    ∀ (V : Type u) (G : SimpleGraph V), IsEdgeDisjointCompleteUnion G n →
+      G.chromaticNumber ≤ n := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/19.lean:79]: Where does this statement come from?
I can't see it on the website. And how is it weaker given the next result? You might have meant the <= (1 + o(1))n result? Note that you can prove it using the <= n for large n result.
